US08877975B2
(b) Synthesis of 1-(1-(3,4-dichlorophenyl)cyclohexyl)-N,N-dimethylmethanamine (hydrochloride)
The title compound was synthesized from 1-(3,4-dichlorophenyl)-N,N-dimethylcyclohexanecarboxamide (71 mg, 0.24 mmol) using General Procedure E followed by HCl salt formation. The crude HCl salt was recrystallized from CH3CN (3 mL) to afford the product as an off-white solid. HPLC Rt=8.70 min; 1H NMR (400 mHz, MeOH-d4) 7.72 (d, J=2.44 Hz, 1H), 7.63 (d, J=8.55 Hz, 1H), 7.49 (dd, J=2.44, 8.55 Hz, 1 H), 3.47 (bs, 2H), 3.32 (s, 6H), 2.28-2.24 (bs, 2H), 1.81-1.39 (m, 8H); LCMS 9.79 min, (M+1)+ 286@10.0 min.

reactant | 1-(3,4-dichlorophenyl)-N,N-dimethylcyclohexanecarboxamide | 0.24 mmol, 71 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(=O)N(C)C | C15H19Cl2NO
reactant | HCl | Cl | ClH
product | 1-(1-(3,4-dichlorophenyl)cyclohexyl)-N,N-dimethylmethanamine | ClC=1C=C(C=CC1Cl)C1(CCCCC1)CN(C)C | C15H21Cl2N
